US07592477B2
Step e) Formation of tert-butyl 4′-({[4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylate
To a solution of tert-butyl 4′-(aminomethyl)-1,1′-biphenyl-4-carboxylate (2.0 g) and 4-(trifluormethyl)-benzaldehyde (0.88 mL) in DCE (40 mL) was added at once sodium triacetoxyborohydride (1.904 g). The resulting mixture was stirred for 14 h at rt. Water (50 mL) was added and the mixture extracted with DCM (3×). The combined organic layers were washed with water (50 mL), then dried over MgSO4, evaporated off to give a yellow oil. This crude was purified by flash chromatography (c-Hex/AcOEt 4/1) to give the title compound as a white powder (1.30 g, 43%). M+(LC/MS(ESI)): 442.02

reactant | tert-butyl 4′-(aminomethyl)-1,1′-biphenyl-4-carboxylate | 2.0 g | NCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC(C)(C)C | C18H21NO2
reactant | 4-(trifluormethyl)-benzaldehyde | 0.88 mL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | sodium triacetoxyborohydride | 1.904 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 50 mL | O | H2O
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
product | tert-butyl 4′-({[4-(trifluoromethyl)benzyl]amino}methyl)-1,1′-biphenyl-4-carboxylate | 1.30 g, 43% | FC(C1=CC=C(CNCC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)OC(C)(C)C)C=C1)(F)F | C26H26F3NO2
